US08859574B2
In a 5 mL microwave reaction tube was added 2-(2,5-dimethyl-4-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (143 mg, 0.516 mmol, prepared from 1-bromo-2,5-dimethyl-4-nitrobenzene by standard protocol), 1-(4-methoxybenzyl)-5,6-dihydropyridin-2(1H)-one (56 mg, 0.26 mmol, prepared by following a similar procedure as reported by Lerchner etc. in Chem. Eur. J. 2006, 12, 8208), chloro(1,5-cyclooctadiene)rhodium (I) dimer (13 mg, 0.026 mmol), KOH (0.13 mL 1N aqueous solution) and dioxane (1.2 mL). The tube was degassed, filled with N2 and sealed. The reaction tube was then heated to 100° C. in a microwave reactor for 10 min. After the reaction tube was opened, the mixture was treated with saturated NH4Cl aqueous solution (3 mL) and extracted with EtOAc (3×4 mL). The organic layers were combined and concentrated. The residue was purified by flash column chromatography (silica gel, gradient 0%˜70% EtOAc/hexane), to provide 4-(2,5-dimethyl-4-nitrophenyl)-1-(4-methoxybenzyl)piperidin-2-one. ESMS m/z 369.2 (M+H+).

reactant | 2-(2,5-dimethyl-4-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.516 mmol, 143 mg | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)B1OC(C(O1)(C)C)(C)C | C14H20BNO4
reactant | 1-(4-methoxybenzyl)-5,6-dihydropyridin-2(1H)-one | COC1=CC=C(CN2C(C=CCC2)=O)C=C1 | C13H15NO2
reactant | KOH | 1N, 0.13 mL | [OH-].[K+]
catalyst | chloro(1,5-cyclooctadiene)rhodium (I) dimer | 0.026 mmol, 13 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Rh].[Rh]
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 4-(2,5-dimethyl-4-nitrophenyl)-1-(4-methoxybenzyl)piperidin-2-one | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O | C21H24N2O4
